US08669234B2
[1-(4-Methoxymethyl-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester:
(1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxymethyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (348 mg, 0.705 mmol), bis(pinacolato)diboron (269 mg, 1.06 mmol), Pd(dppf)2Cl2 (52 mg, 0.0705 mmol) and KOAc (208 g, 2.12 mmol) were combined in dioxane and degassed for 12 min with bubbling N2. The reaction mixture was then stirred at 90° C. for 18 h, cooled to RT and diluted with EtOAc. The organic mixture was washed with saturated aqueous NaHCO3 and brine before being dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (80% to 100% EtOAc/Hex) to provide the title compound (297 mg, 78%).

reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxymethyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.705 mmol, 348 mg | COC(NC(C(C)C)C(=O)N1C(CC(C1)COC)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H29BrN4O4
reactant | bis(pinacolato)diboron | 1.06 mmol, 269 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 2.12 mmol, 208 g | CC(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.0705 mmol, 52 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [1-(4-Methoxymethyl-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 297 mg, 78% | COC(NC(C(C)C)C(=O)N1C(CC(C1)COC)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H41BN4O6
